US07396856B2
2,5-Dimethoxy-4-(2-methoxymethoxy-ethyl)-benzaldehyde
In a round bottom flask, 1-bromo-2,5-dimethoxy-4-(2-methoxymethoxy-ethyl)-benzene (0.55 g, 18.02 mmol) was dissolved in 30 mL of dry THF. The reaction mixture was cooled to −78° C. using a dry ice-acetone bath and stirred for 10 min. A solution of n-BuLi (0.86 mL of 2.5 M solution in hexane) was added and the reaction mixture was stirred for an additional 30 min. Dimethyl formamide (0.26 g, 36.06 mmol) was added and then the temperature was allowed warm up slowly to room temperature and stirred for 30 min. The reaction mixture was diluted with water and the organic material was extracted with ethyl acetate. The organic layer was dried (MgSO4) and evaporated in vacuo. The crude material was purified by flash column chromatography using a hexane and ethyl acetate gradient to give colorless oil in 56% yield. MS (m/z) 255 (M+1)+. 1HNMR(CDCl3): δ ppm 2.96 (m, 2H), 3.32 (m, 3H), 3.75 (m, 2H), 3.79 (s, 3H), 4.13 (s, 3H), 4.63 (s, 2H), 6.98 (s, 1H), 7.26 (s, 1H), 10.40 (s, 1H).

reactant | 1-bromo-2,5-dimethoxy-4-(2-methoxymethoxy-ethyl)-benzene | 18.02 mmol, 0.55 g | BrC1=C(C=C(C(=C1)OC)CCOCOC)OC | C12H17BrO4
reactant | n-BuLi | 2.5 M, 0.86 mL | [Li]CCCC
reactant | Dimethyl formamide | 36.06 mmol, 0.26 g | CN(C=O)C | C3H7NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2,5-Dimethoxy-4-(2-methoxymethoxy-ethyl)-benzaldehyde | 56% yield | COC1=C(C=O)C=C(C(=C1)CCOCOC)OC | C13H18O5
